US07951954B2
a) (4-Formylphenyl)acetic acid methyl ester
Acetyl chloride (5 mL) was added cautiously to solution of (4-hydroxymethylphenyl)acetic acid (5.78 g) in methanol (200 mL), stirred for 18 hours and evaporated. The residue was dissolved in dichloromethane (100 mL) and treated with manganese (IV) oxide (29.47 g), stirred for 18 hours and filtered through Celite. The filter pad was washed with dichloromethane and the combined filtrates evaporated. Purification on silica, eluting with 20% diethyl ether in iso-hexane, afforded the subtitle compound as a white solid (3.60 g).

reactant | Acetyl chloride | 5 mL | C(C)(=O)Cl | C2H3ClO
reactant | (4-hydroxymethylphenyl)acetic acid | 5.78 g | OCC1=CC=C(C=C1)CC(=O)O | C9H10O3
solvent | methanol | 200 mL | CO | CH4O
product | (4-Formylphenyl)acetic acid methyl ester | 3.60 g | COC(CC1=CC=C(C=C1)C=O)=O | C10H10O3
